US07750003B2
3-Methyl-1-[4-[4-[(1-methylimidazol-2-yl)sulfonylmethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]urea
3-Methyl-1-[4-[4-[(1-methylimidazol-2-yl)sulfanylmethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]urea (0.23 mmol) was dissolved in 1,4-Dioxane (4 mL) and water (1 mL). m-CPBA (75%) (80 mg), followed immediately by sodium permanganate (92 mg), was added to the solution. The reaction was allowed to stir at RT for 18 h then loaded onto a SCX-2 (10 g) column, which was washed with methanol and the product eluted with 7N ammonia in methanol. The reaction was vacuumed to dryness and purified by prep-HPLC (basic) to give the desired material (37 mg) as a white solid.

reactant | 3-Methyl-1-[4-[4-[(1-methylimidazol-2-yl)sulfanylmethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]urea | 0.23 mmol | CNC(NC1=CC=C(C=C1)C1=NC(=CC(=N1)CSC=1N(C=CN1)C)N1[C@H](COCC1)C)=O | C22H27N7O2S
reactant | m-CPBA | 80 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | sodium permanganate | 92 mg | [Mn](=O)(=O)(=O)[O-].[Na+]
reactant | water | 1 mL | O | H2O
solvent | 1,4-Dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 3-Methyl-1-[4-[4-[(1-methylimidazol-2-yl)sulfonylmethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]urea | 37 mg | CNC(NC1=CC=C(C=C1)C1=NC(=CC(=N1)CS(=O)(=O)C=1N(C=CN1)C)N1[C@H](COCC1)C)=O | C22H27N7O4S
